US07662832B2
Step 1: 7-(4-fluorophenyl)-2-methyl-1H-pyrrolo[2,3-c]pyridine
In accordance with the same procedures as in Example 242, except for using 3-nitro-2-(4-fluorophenyl)pyridine prepared in Preparation 13 and isopropenyl magnesium bromide, the titled compound was obtained as a white solid. (Yield: 37%)

reactant | 3-nitro-2-(4-fluorophenyl)pyridine | [N+](=O)([O-])C=1C(=NC=CC1)C1=CC=C(C=C1)F | C11H7FN2O2
reactant | isopropenyl magnesium bromide | C(=C)(C)[Mg]Br
product | 7-(4-fluorophenyl)-2-methyl-1H-pyrrolo[2,3-c]pyridine | Yield: 37% | FC1=CC=C(C=C1)C=1N=CC=C2C1NC(=C2)C | C14H11FN2
